US06214877B1
5-Bromo-6-(2-piperazin-1-yl-ethoxy)-3′trifluoromethyl-biphenyl-3-carboxylic acid (8-phenyl-octyl)-amide
The title compound was prepared as a yellow oil (0.302 g, 45%) from N-(8-phenyl-octyl)-3-bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzamide and piperazine using a procedure similar to Example 185. 1H NMR (DMSO-d6) 8.58 (t, 1H); 8.12 (d, 1H); 7.90-7.84 (m, 3H); 7.69 (d, 1H); 7.52 (dd, 1H); 7.26-7.10 (m, 5H); 3.61 (t, 2H); 3.23 (dd, 2H); 2.62 (t, 4H); 2.52 (t, 2H); 2.36 (t, 2H); 2.18 (m, 5H); 1.50 (m, 4H); 1.24 (m, 8H); IR (film) 3290, 2920, 2850, 1720, 1630, 1600, 1545, 1460, 1330, 1170, 1120, 1080 cm−1; mass spectrum [(+)ESI], m/z 660/662 (M+H)+; Anal. Calcd. for C34H41BrF3N3O2: C, 61.82; H, 6.26; N, 6.16, Found: C, 58.20; H, 6.00; N, 5.47.

reactant | N-(8-phenyl-octyl)-3-bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzamide | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)Br)=O | C30H33BrF3NO3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 5-Bromo-6-(2-piperazin-1-yl-ethoxy)-3′trifluoromethyl-biphenyl-3-carboxylic acid (8-phenyl-octyl)-amide | C1(=CC=CC=C1)CCCCCCCCNC(=O)C=1C=C(C(=C(C1)Br)OCCN1CCNCC1)C1=CC(=CC=C1)C(F)(F)F | C34H41BrF3N3O2
